US08071584B2
1-(4-Bromo-2-thienyl)-2-methyl-1-propanone
2-methyl-1-(2-thienyl)-1-propanone (2.3 g, 15 mmol) was diluted in chloroform (10 mL), and aluminum chloride (4.5 g, 34 mmol, 2.3 eq) was added. Bromine (0.82 mL, 16 mmol, 1.1 eq) was added as a solution in chloroform (15 mL), and the mixture was stirred at rt over the weekend. The crude reaction mixture was carefully poured onto ice water, then extracted with chloroform. The combined organics were dried over sodium sulfate, filtered, and concentrated to afford brown oil. The crude was purified by isco combiflash to give the title compound as brown oil (1.28 g, 40%).

reactant | 2-methyl-1-(2-thienyl)-1-propanone | 15 mmol, 2.3 g | CC(C(=O)C=1SC=CC1)C | C8H10OS
reactant | aluminum chloride | 34 mmol, 4.5 g, 2.3 eq | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Bromine | 16 mmol, 0.82 mL, 1.1 eq | BrBr | Br2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-Bromo-2-thienyl)-2-methyl-1-propanone | 1.28 g, 40% | BrC=1C=C(SC1)C(C(C)C)=O | C8H9BrOS
